US07888364B2
Ethyl 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzimidate (2.0 ml of a 0.075 M methanol solution, 0.15 mmol) was treated with 2,2,2-trifluoroethanamine (18 μl, 0.23 mmol) via procedure W to afford 56 mg of N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(N-(2,2,2-trifluoroethyl)carbamimidoyl)benzamide. MS (Q1) 433 (M)+.

reactant | Ethyl 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzimidate | ClC1=C(C=C(C=C1)NC(=O)C1=CC=C(C(OCC)=N)C=C1)C1=NC=CC=C1 | C21H18ClN3O2
reactant | 2,2,2-trifluoroethanamine | 0.23 mmol, 18 μl | FC(CN)(F)F | C2H4F3N
solvent | methanol | 0.075 M | CO | CH4O
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(N-(2,2,2-trifluoroethyl)carbamimidoyl)benzamide | 56 mg | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)C(NCC(F)(F)F)=N)=O)C1=NC=CC=C1 | C21H16ClF3N4O
